US08497264B2
A microwave vial was charged with potassium acetate (6.14 mg, 0.063 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (1.77 mg, 2.504 μmol), and 2-fluoropyridin-4-ylboronic acid (4.23 mg, 0.030 mmol). The (S)-tert-butyl 2′-bromo-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate (0.012 g, 0.025 mmol) was added as a solution in 1:1 acetonitrile/dioxane (1 mL). Water (0.1 mL) was added. Argon was blown through the vessel, which was then sealed and heated in a 100° C. oil bath for 6 h. The mixture was cooled, diluted with brine (10 mL), and the aqueous layer was extracted with 10% MeOH-DCM (3×20 mL). The organics were combined, washed with dilute brine (5 mL), dried over sodium sulfate and concentrated. The residue was purified by preparative TLC (20% MeOH in DCM) to afford 3.8 mg of (S)-5-amino-4′-fluoro-2′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol.

reactant | potassium acetate | 0.063 mmol, 6.14 mg | C(C)(=O)[O-].[K+]
reactant | 2-fluoropyridin-4-ylboronic acid | 0.030 mmol, 4.23 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | (S)-tert-butyl 2′-bromo-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | 0.025 mmol, 0.012 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)O)COCC(=N3)NC(OC(C)(C)C)=O | C21H20BrFN2O5
reactant | acetonitrile dioxane | 1 mL | C(C)#N.O1CCOCC1
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 2.504 μmol, 1.77 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | Water | 0.1 mL | O | H2O
product | (S)-5-amino-4′-fluoro-2′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 3.8 mg | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C2=CC(=NC=C2)F)F)O)COC1 | C21H15F2N3O3
